US08168794B2
Synthesis of ethyl 2-cyano-2-(2,6-difluorobenzamido)acetate
To a solution of ethyl 2-amino-2-cyanoacetate (1 eq) in 6 mL of dichloromethane was added pyridine (1.5 eq) and 2,6-difluorobenzoyl chloride (1 eq) at 0° C. The reaction mixture was stirred at room temperature for 3 hours. The mixture was diluted with ethyl acetate, washed with brine, then dried over anhydrous MgSO4, filtered, and concentrated in vacuo. The crude residue was purified by flash chromatography (EtOAc:hexanes=1:1) to give the titled compound (84%). LC/MS (m/z): 269.1 (MH+), Rt: 0.69 min.

reactant | ethyl 2-amino-2-cyanoacetate | 1 eq | NC(C(=O)OCC)C#N | C5H8N2O2
reactant | pyridine | 1.5 eq | N1=CC=CC=C1 | C5H5N
reactant | 2,6-difluorobenzoyl chloride | 1 eq | FC1=C(C(=O)Cl)C(=CC=C1)F | C7H3ClF2O
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 2-cyano-2-(2,6-difluorobenzamido)acetate | 84% | C(#N)C(C(=O)OCC)NC(C1=C(C=CC=C1F)F)=O | C12H10F2N2O3
